US08357688B2
To 2.74 g of a mixture of methyl 4-fluoro-2-methyl-5-nitrobenzoate and methyl 4-fluoro-2-methyl-3-nitrobenzoate, 1.75 g of 2-cyclopentyl-1H-imidazole, and 17.5 mL of acetonitrile, was added 4.9 mL of triethylamine, followed by stirring at 70° C. for 7 hours. To the reaction mixture were added water and ethyl acetate, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate, and then solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (normal hexane/ethyl acetate) to obtain 2.12 g of methyl 4-(2-cyclopentyl-1H-imidazol-1-yl)-2-methyl-5-nitrobenzoate.

reactant | methyl 4-fluoro-2-methyl-5-nitrobenzoate | FC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C9H8FNO4
reactant | methyl 4-fluoro-2-methyl-3-nitrobenzoate | FC1=C(C(=C(C(=O)OC)C=C1)C)[N+](=O)[O-] | C9H8FNO4
reactant | 2-cyclopentyl-1H-imidazole | 1.75 g | C1(CCCC1)C=1NC=CN1 | C8H12N2
reactant | acetonitrile | 17.5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | triethylamine | 4.9 mL | C(C)N(CC)CC | C6H15N
product | methyl 4-(2-cyclopentyl-1H-imidazol-1-yl)-2-methyl-5-nitrobenzoate | 2.12 g | C1(CCCC1)C=1N(C=CN1)C1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C17H19N3O4
